Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Shortness of breath.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ yo man with severe COPD (baseline prednisone 10mg 
qod and 4L NC O2) who was recently admitted to ___ 
___ ___ for pneumonia. He was treated with unknown 
antibiotics, that just finished, and prednisone taper. He had 
been doing well until this morning. He came to ___ for his usual 
vitamin b12 injection and became acutely sob. This was prompted 
by a cigarette. Other than that he can not identify any acute 
inhaled precipitant. He denies recent travel or ill contacts. He 
denies cough, chest pain, dizziness or lightheadedness. He tried 
using inhalers in the clinic with no relief. He also notes mild 
abdominal pain since the hospitalization at ___ 
that improves with eating food (intermittent, no particular 
exacerbating factors, occurs daily). He denies change in sputum. 
Of note he took his HR, BP and sat at home this am and was tachy 
to 120, BP 170/70 and sat 88% on 4L NC. He was seen in clinic 
and referred to the ED for this.  
 
In the ED, initial vs were: T 96.2 P ___ BP 124/96 R 26 O2 sat 
96%. Patient was given solumedrol 40mg iv and several albuterol 
and ipratropium nebs and azithromycin 500mg iv.  
 
On the floor he feels well again after nebs. He does continue to 
have LLQ abdominal pain.  
  
ROS: + chronic nasal congestion, stable ___ swelling. No recent 
wt changes, HA, visual changes, fevers, chills, cough, chest 
pain, nausea, vomitting, constipation, diarrhea, melena, brbpr, 
dysuria, hematuria, rash, myalgias, arthralgias.  

 
Past Medical History:
Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 42%  
CHF: TTE ___ LVEF>55%  
gastritis/GERD  
h/o SBO  
Tobacco Abuse: Previous 5PPD, now ___ cigs/day  
Diabetes Mellitus  
Diverticulosis  
C6-C7 HERNITATION  
B12 Deficiency- on monthly injections: not on his last d/c 
summary  
Obesity with possible OSA, but pt refuses sleep study or CPAP  
Psoriasis  
Hypertension  
Glaucoma  
Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
VS: T 98.4 HR 94 BP 128/74 RR 20 Sat 94% on 4L NC  
Gen: Chronically ill appearing man in NAD, speaking in full 
sentences, soft voice  
HEENT: PERRL, sclera white, OP clear, no ulcerations or exudates 
 
Neck: supple, no lad, unable to assess jvp  
CV: RRR, no m/r/g, s1, s2 present  
Resp: decreased BS distally, barrel chest, prolonged expiratory 
phase, no discrete wheezes, rales, rhonchi  
Abd: soft, protuberant, mild tenderness to palpation llq, no 
rebound, no guarding, no massess or hsm but difficult to assess 
with habitus  
Extrem: 2+ PE B ___, left > right, no cords or calf tenderness, 
dopplerable ___ pulses bilaterally  
Skin: Hyperpigementation/brawny changes distal ___, psoriatic 
plaques over arm extensor surfaces  
Neuro: A&ox3, strength ___ bilat hip flexion, knee 
flexion/extension, dorsi/plantar flexion, shoulder abduction, 
elbow flexion/extension, wrist extension; sensation intact to 
light touch distal ___ CN II-XII intact.  
 
Pertinent Results:
Admission labs:
147 100 29  
------------<120  
5.0 39 0.9  
estGFR: >75 (click for details)  
CK: 30 MB: Notdone Trop-T: <0.01  
Ca: 9.4  
ALT: 16 AP: 64 Tbili: 0.4  
AST: 11 Lip: 18  
 
  11.3  
11.9><158  
  35.2  
N:91.5 L:5.4 M:2.3 E:0.6 Bas:0.1  
 
lactate 1.5  
  
___: 12.1 PTT: 23.8 INR: 1.0  
  
Studies:  
ECG ___: ST (100), nl axis, intervals, no acute ST-T change, 
QW III, II, aVF (old).  
 
CXR (portable) ___: IMPRESSION: No acute cardiopulmonary 
process.  
  
PFT's ___: Severe obstructive ventilatory defect. The 
reduced FVC may be due to gas trapping but a coexisting 
restrictive defect cannot be excluded. Suggest lung volume 
measurements if clinically indicated. Compared to the prior 
study of ___ there has been no significant change.  

KUB ___: 
 
Brief Hospital Course:
This is a ___ yo man with severe COPD, recent hospitalization, 
with acute exacerbation, also with abdominal pain.  
  
1. Shortness of breath: Suspect underlying COPD exacerbation 
triggered by inhalation of tobacco. However, given mildly 
elevated WBC and the vital sign abnormalities noted at home the 
morning of presentation I favored treating for infection despite 
lack of change in sputum, fevers, xray findings. Cardiac 
etiology also considered but no chages noted and two sets of 
cardiac markers negative so this seemed  unlikelly. He was 
treated with solumedrol on HD 1, then prednisone 40mg HD with 
rapid taper to prednisone 30mg on HD 3 given he returned to 
baseline and stayed there within a few hours. Though he was 
stable for discharge on HD2, he was nervous to go home so we 
monitored him for 1 extra day. His sat remained low to mid 90's 
on ___ NC, with sat of 88%-92% on 3L NC with ambulation. He was 
also treated with azithromycin for a 5 day course.  He was again 
encouraged to quit smoking and reminded of the very severe 
consequences of smoking on oxygen.
  
2. Abdominal pain: This was noted on admit but he did not have 
this during the remainder of his course.  The etiology was 
unclear due to the vague nature and lack of recurrence, however 
a KUB was obtained to r/o occult perforation given his high dose 
prednisone, which only showed stool.  It was thought that 
constipation could be contributing given the stool on KUB so 
lactulose was added.

3. Urinary retention: Mr. ___ complained of difficulty passing 
urine at night, even with standing to void. He had a urinalysis 
checked that was normal, culture pending at time of discharge. 
He had a post-void bladder scan that initially showed 300cc but 
once encouraged to fully empty his bladder showed only 150. We 
discussed the potential etiologies for this, most likely being 
benign prostatic hypertrophy vs. constipation (or both) as there 
were no medications he was getting that were likely to be 
contributing. We discussed starting ___ to help but he 
favored treating the constipation and following up with his pcp 
as an outpatient to further discuss this issue and the 
treatment. He also had a psa that was checked and low at 0.3.

4. Diabetes melitus: He was noted to have poorly controlled 
blood glucose on steroids while in the hospital. He was 
continued on metformin and glyburide, with sliding scale for 
additional coverage.  

5. Hypertension: Controlled on home lisinopril and lasix.  

6. Hyperlipidemia: Controlled on home simvastatin.  
  
7. Anemia: He was noted to be anemic on admission but stable 
during his stay, normocytic, vitamin b12 and folate were checked 
and noted to be replete.   
 
8. Glaucoma: He was continued on home xalatan and ___ 
drops.  
 
9. Vitamin B12 deficiency: He was noted to miss his usual 
monthly injection on date of admission so was given the dose in 
the hospital.

10. Code: Confirmed full.  
 
11. Communication: Patient, wife ___ ___.  

 
___ on Admission:
recent antibiotic that finished ___, recent prednisone dose 
change (20mg->10mg on ___  
prednisone 10 daily (baseline is 10mg qod)  
Latanoprost 0.005 % ___  
___ eye gtt ___ bid  
Calcium Carbonate 500 mg PO BID  
Cholecalciferol 400 unit PO DAILY  
Fluticasone-Salmeterol 250-50 mcg/Dose BID  
Aspirin 325 mg PO DAILY  
Triamcinolone Acetonide 0.1 % Ointment BID  
Furosemide 60 mg PO DAILY  
Lisinopril 20 mg PO DAILY  
Alendronate 70 mg PO QMON ** has not taken in a while  
Simvastatin 5 mg 0.5 PO DAILY  
Ferrous Sulfate 325 mg PO DAILY  
Magnesium Oxide 400 mg PO DAILY  
Ranitidine HCl 300 mg PO DAILY  
Pantoprazole 40 mg Tablet PO Q12H  
Combivent ___ Two puffs four times a day  
oxygen 4 L NC  
Amlodipine 5 mg PO once a day  
Fluticasone 50 mcg/Actuation Spray, 2 Sprays Nasal DAILY  
Docusate Sodium 100 mg PO BID  
Glyburide 2.5 mg PO every other day on prednisone days (has 
taken daily)  
Metformin 1,000 mg twice a day  
senna 2 tabs qhs  
vitamin b12 1000 mcg monthly due ___  

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Prednisone 10 mg Tablet Sig: per taper Tablet PO once a day 
for 30 doses: Please take 3 tablets daily ___, then 2 
tablets daily ___, then 1.5 tablets daily ___, then 1 
tablet daily ___, then 1 tablet every other day starting 
___.
Disp:*40 Tablet(s)* Refills:*0*
3. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
4. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
9. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QTUES (every 
___.  
11. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
12. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
15. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
16. Combivent ___ mcg/Actuation Aerosol Sig: Two (2)  
Inhalation four times a day.  
17. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2)  Inhalation 
every four (4) hours as needed for shortness of breath or 
wheezing.  
18. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
19. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
20. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
21. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
22. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

23. Cyanocobalamin 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month: given ___.  
24. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 doses.
Disp:*2 Tablet(s)* Refills:*0*
25. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day) as needed for constipation.
Disp:*150 ML(s)* Refills:*0*
26. oxygen
Please provide 4L NC oxygen.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Severe COPD with exacerbation, constipation.
Secondary: Diabetes melitus, hypertension, anemia of chronic 
disease, vitamin B12 deficiency.

 
Discharge Condition:
Stable oxygenation and respiratory status on home oxygen, 4L NC 
at rest and with ambulation.

 
Discharge Instructions:
You were diagnosed with exacerbation of severe COPD and 
constipation. You were treated with oral prednisone and 
azithromycin, an antibiotic. You should take all medications as 
prescribed. You should keep all follow up appointments. Please 
call your doctor, ___, or return to the Emergency 
department if you experience any further shortness of breath, 
chest pain, abdominal pain, or any symptoms that concern you.

It is very important that you not smoke while on oxygen as this 
can cause an explosion. I strongly urge you to quit smoking.

You were found to have urinary retention thought likely to to 
prostatic hypertrophy. You were started on a medication to help 
with this, tamsulosin.  
 
Followup Instructions:
___